US07592477B2
Step a) Formation of N-[4-(trifluoromethyl)phenyl]-N-[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amine
The same procedure as employed in the preparation of Example 226 (step a) but using 4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzaldehyde and 4-(trifluoromethyl)aniline gave the title compound as a colorless oil (76%). 1H NMR (CDCl3, 300 MHz) δ 8.03 (d, J=8.3 Hz, 2H), 7.42 (d, J=8.3 Hz, 2H), 7.32 (d, J=8.3 Hz, 2H), 6.54 (d, J=8.3 Hz, 2H), 4.40 (s, 2H), 2.71 (t, J=7.5 Hz, 2H), 1.80-1.65 (m, 2H), 1.40-1.07 (m, 16H), 0.80 (t, J=6.8 Hz, 3H). M−(LC/MS(ESI)): 472.5; M+(LC/MS(ESI)): 474.2. HPLC (Condition A), Rt: 6.78 min (HPLC purity: 97.5%).

reactant | 4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzaldehyde | C(CCCCCCCCCC)C1=NOC(=N1)C1=CC=C(C=O)C=C1 | C20H28N2O2
reactant | 4-(trifluoromethyl)aniline | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
product | N-[4-(trifluoromethyl)phenyl]-N-[4-(3-undecyl-1,2,4-oxadiazol-5-yl)benzyl]amine | 76% | FC(C1=CC=C(C=C1)NCC1=CC=C(C=C1)C1=NC(=NO1)CCCCCCCCCCC)(F)F | C27H34F3N3O
